data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,5984,"COC1=C(Br)C=CC2=C(OC(C)C)C=[C:1]([CH:2]([OH:3])[O:4][O:5]C(=O)C3=CC(Cl)=CC=C3)C=C21|(3, 2);((2, 1), 4);((4, 5), 5)"
train,pmechdb_split_0,0,5176,"C=[O+][Si:1](C)(C)C.[Cl-:2]|(2, 1)"
train,pmechdb_split_0,0,9958,"CC(=O)C1=CC2=C(C=C1)C=C[CH:1]=[CH:2]2.C[C+:3]=O|((1, 2), 3)"
train,pmechdb_split_0,0,3957,"[CH2:1]=[CH:2][C:3]#[N:4].[Li][Cu:5]([C]1=CC=CC=C1)[C:6]1=CC=CC=C1|((5, 6), 1);((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,2233,"C=C1C(=O)CC2CC1C2(C)C.CC(=O)[O-:1].FC1=C([C:2]([CH:3]([N+]2=CC=CC=C2)[H:4])=[O:5])C=CC=C1.[I-].[NH4+]|(1, 4);((4, 3), 2);((2, 5), 5)"
train,pmechdb_split_0,0,1607,"C1CC[CH+:1]OC1.C[OH:2]|(2, 1)"
train,pmechdb_split_0,0,7459,"C[Si](C)(C)C=[C:1]=[CH:2]COC[C+:3](C)C|((1, 2), 3)"
train,pmechdb_split_0,0,631,"COC(=O)C1=CC(C)CC(C(=O)[O-:1])CC1.C[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,3564,"CC(=O)[CH:1]([CH2:2][H:3])[Br:4].CC(C)(C)[O-:5]|(5, 3);((3, 2), 1);((1, 4), 4)"
train,pmechdb_split_0,0,8928,"O.O=C(CC1CN(CC2=CC=CC=C2)CCC1=[O:1])C1=CC=CC=C1.[H:2][Cl:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,4253,"C=CCN1CCC23C4=C5C=CC(OC)=C4OC2[C:1](=[O:2])CCC3(O)C1C5.N[NH2:3].O.OCCOCCO|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,2876,"C1=CSC([CH:1]=[O:2])=C1.CC(C)O.CC1=C(CCO)S[C-:3]=[N+]1CC1=CC=CC=C1.CC[NH+](CC)CC.O=C(C=CC1=CC2=C(C=C1)OCO2)C1=CC=CS1.[Cl-]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,953,"COC(CCCC=CC[B:1]1OC(C)(C)C(C)(C)O1)[OH+]C.O=C(C(F)(F)F)[O-:2]|(2, 1)"
train,pmechdb_split_0,0,1899,"C1=CC=C([NH2:1])C=C1.[CH3:2][I:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,3972,"C1=C[NH+]=CN1.CC(C)O[Si-:1](C)(C)(C(C)(C)C)[O+:2]=CN(C)C.[Cl-]|((1, 2), 2)"
train,pmechdb_split_0,0,1151,"CCCCCCC[CH:1]=[O:2].[Br][Mg:3][C:4]1=CC=CC=C1|((3, 4), 1);((1, 2), 2)"
train,pmechdb_split_0,0,3536,"CCC(C)C(N[C:1](=[OH+:2])[O:3][C:4](C)(C)C)C(=O)NCC1=CC=CC=C1.O=C([O-])C(F)(F)F.[Cl-]|((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,7264,"C[CH+:1]CC[C:2]1=[CH:3]C=CC=C1|((2, 3), 1)"
train,pmechdb_split_0,0,8097,"CC1CC(O)C23CCC[N+]4(O[C:1](C(F)(F)F)([O-:2])[O:3]C(=O)C(F)(F)F)CCCC24C(=O)CC3C1O|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,9524,"C1=CC=NC=C1.CC(C)=O.CC1(O)CC[C:1]([OH:2])([OH+:3]CCO)CC1.CC1=CC=C(S(=O)(=O)[O-])C=C1.O|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,6480,"CCSC[CH:1]=[C:2](OC)[O-:3].[H:4][OH2+:5]|(3, 2);((2, 1), 4);((4, 5), 5)"
train,pmechdb_split_0,0,3704,"CC(C)(OCCO)[OH:1].O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,2832,"CC(C)=O.CC1=CC=C(S(=O)(=O)[O-])C=C1.COC1CC2C[C:1]([OH+:2]CC(C)(C)CO)([OH:3])CC2C1.O|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,1963,"CCO.NC1=N[C:1](=[NH2+:2])[C:3](C(Cl)Cl)([H:4])C=C1.[Na+].[OH-:5]|(5, 4);((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,5360,"C[CH2][Al-]([Cl])([Cl])[O+:1]=[C:2]1CCCC([C:3](C[Si](C)(C)C)=[CH2:4])C1.[Cl-]|((3, 4), 2);((2, 1), 1)"
train,pmechdb_split_0,0,6451,"CC1CC2O[C:1]3([O-:2])CC(C1O)C21CCC[N+:3]2([O:4]C(=O)C(F)(F)F)CCC[C:5]123.O=C(O)C(F)(F)F|(2, 1);((1, 5), 3);((3, 4), 4)"
train,pmechdb_split_0,0,8488,"CCC[CH2:1][Li:2].O=C1OCC(CC2=CC=CC=C2)[N:3]1[H:4]|((2, 1), 4);((4, 3), 3)"
train,pmechdb_split_0,0,4931,"C[C:1]1([OH2+:2])C=CC(C2(O)C(=O)OC3C(O)COC32O)O1|((1, 2), 2)"
train,pmechdb_split_0,0,8606,"CC(C)[O-].CC(C)[O][Al-]([O]C(C)C)([O:1][C:2]1([H:3])CCCCC1C1CCCCC1)[O+:4]=[C:5](C)C|(1, 2);((2, 3), 5);((5, 4), 4)"
train,pmechdb_split_0,0,1586,"CNC(=O)C1CCCN1.COC(=O)NC(C)[C:1](OC(NC(C)C)=[N:2]C(C)C)=[O:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,8870,"C1CC[NH+:1]([H:2])CC1.CC(=O)[O-].CCC(C)CC(N1CCCCC1)[OH:3].CCOC(=O)CC(C)=O|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,40,"CO[C:1](O)=[NH2+:2].[OH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,6348,"CCCC=C(C)C(O)[NH:1]C(C)(C)C.[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,6267,"C[Si-:1](C)(C)(Cl)[CH2:2][CH+:3]CC1([O][Ti-]([Cl])([Cl])([Cl])[Cl])C=CCCC1|((1, 2), 3)"
train,pmechdb_split_0,0,2412,"COC(=O)N([P+](C)(C)C)[N:1]=[C:2](OC)[O-:3].[N-]=[N+]=[N:4][H:5]|(3, 2);((2, 1), 5);((5, 4), 4)"
train,pmechdb_split_0,0,1232,"CC(=O)O.CCOC(=O)C(C)=N[N-:1]C1=C2C(C3=C(F)C=CC=C3)=CC=NC2=C(OC)C=C1.[Cl-].[H:2][OH:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,6008,"CCC1C[CH:1]=[C:2](C(C)=O)C1=O.CC[S-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,6772,"CCC(O)[N:1](C)C.[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,7773,"C[Si:1](C)(C)C1(C2([O-:2])CCCCC2)CC1.[K+]|(2, 1)"
train,pmechdb_split_0,0,1365,"CCCC1=CC([O+](C)[B:1](Br)Br)=C(C)C=C1.[Br-:2]|(2, 1)"
train,pmechdb_split_0,0,6310,"ClC1C2C=CCC2[C:1]1=[O:2].[Na][OH:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,105,"Br[C:1]#[N:2].OCC[N:3]1CCC2=C(C=CS2)C1C1=CC=CC=C1|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,8324,"O=[N+]([O-])[C-:1]1C=CC=C[C:2]1(O)[F:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,9309,"C1=CC=[N:1]C=C1.CC1=CC[CH:2]([H:3])[CH:4]1[O:5]P(=O)(Cl)Cl|(1, 3);((3, 2), 4);((4, 5), 5)"
train,pmechdb_split_0,0,7903,"CC12CC[C:1](=[N+:2]3CCCC3C(=O)[O-])C=C1CCC2=O.O.O=C([O-])C1CCC[NH2+]1.[OH-:3]|(3, 1);((1, 2), 2)"
